US08754226B2
(2R,3R)-Diethyl 2-(benzyloxy)-3-hydroxysuccinate (15 g, 50.6 mmol) was dissolved in 30% aqueous THF (250 mL) and lithium hydroxide hydrate (4.25 g, 101 mmol) was added and the reaction stirred at ambient temperature overnight. The reaction was then partitioned between aqueous citric acid and EtOAc, dried over Na2SO4, filtered and concentrated to afford (2R,3R)-2-(benzyloxy)-3-hydroxysuccinic acid (11.5 g, 47.9 mmol, 94.6% yield) as a clear colorless oil.

reactant | (2R,3R)-Diethyl 2-(benzyloxy)-3-hydroxysuccinate | 50.6 mmol, 15 g | C(C1=CC=CC=C1)O[C@@H](C(=O)OCC)[C@H](C(=O)OCC)O | C15H20O6
reactant | lithium hydroxide hydrate | 101 mmol, 4.25 g | O.[OH-].[Li+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (2R,3R)-2-(benzyloxy)-3-hydroxysuccinic acid | 47.9 mmol, 11.5 g, 94.6% yield | C(C1=CC=CC=C1)O[C@@H](C(=O)O)[C@H](C(=O)O)O | C11H12O6
